US04939241
Benzyl O-(N-benzyloxycarbonyl-O-benzyl-L-threonyl)-N-(trifluoroacetyl)-L-serinate (500 mg) was dissolved in acetic acid (10 ml) and the solution was hydrogenated over 10% palladium on activated carbon at 40 psi (500 mg) under 3 atomospheric pressure of hydrogen at room temperature for 1 hour. The mixture was filtered and the filtrate was evaporated to dryness. The residue was dissolved in a small amount of methanol and the solution was diluted with diethyl ether to give a white precipitate. The precipitate was crystallized from aqueous methanol to give 230 mg of pure O-(L-threonyl)-N-(trifluoroacetyl)-L-serine as a white powder.

reactant | Benzyl O-(N-benzyloxycarbonyl-O-benzyl-L-threonyl)-N-(trifluoroacetyl)-L-serinate | 500 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H]([C@H](OCC1=CC=CC=C1)C)C(=O)OC[C@H](NC(C(F)(F)F)=O)C(=O)OCC1=CC=CC=C1 | C31H31F3N2O8
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on activated carbon | [Pd] | Pd
product | O-(L-threonyl)-N-(trifluoroacetyl)-L-serine | 230 mg | N[C@@H]([C@H](O)C)C(=O)OC[C@H](NC(C(F)(F)F)=O)C(=O)O | C9H13F3N2O6
